US05929103
Synthesis of 4-phenyl-1-(N-chloroacetyl-2-methylindoline-5-sulfonyl)-2-imidazolone
4-Phenyl-1-(2-methylindoline-5-sulfonyl)-2-imidazolone (300 mg, 0.85 mmol) prepared in Preparation 3 was dissolved in 10 m of dichloromethane. Pyridine (75 μ, 0.93 mmol) and chloroacetylchloride (74 μ, 0.93 mmol) were added thereto one after another, and then the reaction mixture was stirred at room temperature under nitrogen atmosphere for 2 hours. After stirring, the reaction mixture was diluted with 50 m of dichloromethane, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was purified by silica gel column chromatography (eluent:dichloromethane/methanol=10/1, v/v) to afford 342 mg of the title compound as a white solid.

reactant | 4-Phenyl-1-(2-methylindoline-5-sulfonyl)-2-imidazolone | 0.85 mmol, 300 mg | C1(=CC=CC=C1)C=1NC(N(C1)S(=O)(=O)C=1C=C2CC(NC2=CC1)C)=O | C18H17N3O3S
reactant | Pyridine | 0.93 mmol | N1=CC=CC=C1 | C5H5N
reactant | chloroacetylchloride | 0.93 mmol | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-phenyl-1-(N-chloroacetyl-2-methylindoline-5-sulfonyl)-2-imidazolone | 342 mg, Yield: 94% | C1(=CC=CC=C1)C=1NC(N(C1)S(=O)(=O)C=1C=C2CC(N(C2=CC1)C(CCl)=O)C)=O | C20H18ClN3O4S
